US06919322B2
A solution of 3-bromothiophene-2-carboxylic acid (1 mmol) and SOCl2 (3 mmol) in 1 mL of dichloroethane was heated at 80° C. for 20 h and then the solvents evaporated. The residue was dissolved in 2 mL CH2Cl2 and mixed with triethylamine (3 mmol) and 2-(trimethylsilyl)ethanol (1.3 mmol) at rt for 12 h. Extractive isolation provided 2-(trimethylsilyl)ethyl 3-bromo-2-thiophenecarboxylate as an oil.

reactant | 3-bromothiophene-2-carboxylic acid | 1 mmol | BrC1=C(SC=C1)C(=O)O | C5H3BrO2S
reactant | SOCl2 | 3 mmol | O=S(Cl)Cl | Cl2OS
reactant | triethylamine | 3 mmol | C(C)N(CC)CC | C6H15N
reactant | 2-(trimethylsilyl)ethanol | 1.3 mmol | C[Si](CCO)(C)C | C5H14OSi
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
product | 2-(trimethylsilyl)ethyl 3-bromo-2-thiophenecarboxylate | BrC1=C(SC=C1)C(=O)OCC[Si](C)(C)C | C10H15BrO2SSi
